US07612114B2
2-(6-Methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine
To a solution of 7-methoxy-3-(2-nitrophenyl)-1,2-dihydronaphthalene (1.5 g) in tetrahydrofuran (10 ml) and methanol (10 ml) were sequentially added 10% palladium-activated charcoal (300 mg) and concentrated hydrochloric acid (0.8 ml), and the solution was stirred for 25 hours at room temperature under a hydrogen atmosphere at 4 atmospheric pressures. After filtration through celite pad, the solution was neutralized with ammonia solution, extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, then the solvent was evaporated in vacuo, the resulting solid was washed with a hexane-diethyl ether system to provide the title compound (949 mg).

reactant | 7-methoxy-3-(2-nitrophenyl)-1,2-dihydronaphthalene | 1.5 g | COC1=CC=C2C=C(CCC2=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C17H15NO3
reactant | hydrochloric acid | 0.8 ml | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium | 300 mg | [Pd] | Pd
product | 2-(6-Methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | 949 mg | COC=1C=C2CCC(CC2=CC1)C1=C(C=CC=C1)N | C17H19NO
